US07176224B2
A mixture of 2-(4-hydroxybenzyl)-2-phenoxyhexanoic acid ethyl ester (0.030 mmol), toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 1, Part I) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 2-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-hexanoic acid. 1H NMR (400 MHz, CDCl3) δ 8.02 (d, 2H, J=8.60 Hz), 7.65–7.61 (m, 4H), 7.46 (t, 2H, J=7.62 Hz), 7.38–7.26 (m, 3H), 7.07–6.96 (m, 5H), 6.76 (d, 2H, J=8.60 Hz), 4.18 (t, 2H, J=6.65 Hz), 3.29 (s, 2H), 2.97 (t, 2H, J=6.65 Hz), 2.38 (s, 3H), 2.08–1.98 (m, 2H), 1.42–1.18 (m, 4H), 0.79 (t, 3H, J=7.04 Hz); MS (ES+) calcd for C37H38NO5: Found m/e 576.3 (M+1, 100%).

reactant | 2-(4-hydroxybenzyl)-2-phenoxyhexanoic acid ethyl ester | 0.030 mmol | C(C)OC(C(CCCC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C21H26O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C25H23NO4S
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-hexanoic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(CC(C(=O)O)(CCCC)OC2=CC=CC=C2)C=C1)C)C1=CC=CC=C1 | C37H37NO5
